Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[CH2:3][NH:4][C:5](=[O:6])[O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1.[CH3:15][CH:16]1[NH:17][C:18]([CH3:19])([CH3:20])[N:21]([CH2:22][C:23]([NH2:24])=[O:25])[C:26]1=[O:27]>>[C:1](=[O:2])([CH2:3][NH:4][C:5](=[O:6])[O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[N:17]1[CH:16]([CH3:15])[C:26](=[O:27])[N:21]([CH2:22][C:23]([NH2:24])=[O:25])[C:18]1([CH3:19])[CH3:20],[OH:101][C:1](=[O:2])[CH2:3][NH:4][C:5](=[O:6])[O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1.[CH3:15][CH:16]1[NH:17][C:18]([CH3:19])([CH3:20])[N:21]([CH2:22][C:23]([NH2:24])=[O:25])[C:26]1=[O:27].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][NH:4][C:5](=[O:6])[O:7][CH2:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[N:17]1[CH:16]([CH3:15])[C:26](=[O:27])[N:21]([CH2:22][C:23]([NH2:24])=[O:25])[C:18]1([CH3:19])[CH3:20],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (17, 1), ([1, 2], 2), (303, 17.1), ([17.1, 17], 17), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1.[CH3:9][c:10]1[s:11][c:12]2[c:13]([c:14]1[CH2:15][CH2:16][N:17]1[CH2:18][CH2:19][CH:20]([c:21]3[n:22][o:23][c:24]4[cH:25][c:26]([F:27])[cH:28][cH:29][c:30]34)[CH2:31][CH2:32]1)[CH2:33][CH2:34][NH:35][CH2:36]2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)[N:35]1[CH2:34][CH2:33][c:13]2[c:12]([s:11][c:10]([CH3:9])[c:14]2[CH2:15][CH2:16][N:17]2[CH2:18][CH2:19][CH:20]([c:21]3[n:22][o:23][c:24]4[cH:25][c:26]([F:27])[cH:28][cH:29][c:30]34)[CH2:31][CH2:32]2)[CH2:36]1,[CH3:9][c:10]1[s:11][c:12]2[c:13]([c:14]1[CH2:15][CH2:16][N:17]1[CH2:18][CH2:19][CH:20]([c:21]3[n:22][o:23][c:24]4[cH:25][c:26]([F:27])[cH:28][cH:29][c:30]34)[CH2:31][CH2:32]1)[CH2:33][CH2:34][NH:35][CH2:36]2.[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)[N:35]1[CH2:34][CH2:33][c:13]2[c:12]([s:11][c:10]([CH3:9])[c:14]2[CH2:15][CH2:16][N:17]2[CH2:18][CH2:19][CH:20]([c:21]3[n:22][o:23][c:24]4[cH:25][c:26]([F:27])[cH:28][cH:29][c:30]34)[CH2:31][CH2:32]2)[CH2:36]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(35, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[n:2][c:3]([S:4][CH2:5][CH3:6])[c:7]([C:8](=[O:9])[NH:10][CH2:11][c:12]2[cH:13][cH:14][cH:15][c:16]([F:17])[cH:18]2)[c:19]([CH3:20])[cH:21]1.[OH:22][CH2:23][C@H:24]1[CH2:25][O:26][CH2:27][CH2:28][NH:29]1>>[c:1]1([N:29]2[C@@H:24]([CH2:23][OH:22])[CH2:25][O:26][CH2:27][CH2:28]2)[n:2][c:3]([S:4][CH2:5][CH3:6])[c:7]([C:8](=[O:9])[NH:10][CH2:11][c:12]2[cH:13][cH:14][cH:15][c:16]([F:17])[cH:18]2)[c:19]([CH3:20])[cH:21]1,[Cl:101][c:1]1[n:2][c:3]([S:4][CH2:5][CH3:6])[c:7]([C:8](=[O:9])[NH:10][CH2:11][c:12]2[cH:13][cH:14][cH:15][c:16]([F:17])[cH:18]2)[c:19]([CH3:20])[cH:21]1.[OH:22][CH2:23][C@H:24]1[CH2:25][O:26][CH2:27][CH2:28][NH:29]1>>[c:1]1([N:29]2[C@@H:24]([CH2:23][OH:22])[CH2:25][O:26][CH2:27][CH2:28]2)[n:2][c:3]([S:4][CH2:5][CH3:6])[c:7]([C:8](=[O:9])[NH:10][CH2:11][c:12]2[cH:13][cH:14][cH:15][c:16]([F:17])[cH:18]2)[c:19]([CH3:20])[cH:21]1,SNAr(para),"[(29, 1), ([1, 21], [21, 19]), ([19, 7], [7, 8]), ([8, 9], 9), (9, [9, 8]), ([8, 7], [7, 19]), ([19, 21], [21, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
